US04666915
Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate (50 g) and 3-aminobenzotrifluoride (45.2 g) are added to ethanol (300 ml), and the mixture is refluxed with stirring for 17 hours. After cooling, the precipitate is collected by filtration and recrystallized from a mixture of DMF and water to give ethyl 1,6-dihydro-6-oxo-2-(3-trifluoromethylanilino)-5-pyrimidinecarboxylate (34.4 g). M.p. 229°-230° C.

reactant | Ethyl 1,6-dihydro-2-methylthio-6-oxo-5-pyrimidinecarboxylate | 50 g | CSC=1NC(C(=CN1)C(=O)OCC)=O | C8H10N2O3S
reactant | 3-aminobenzotrifluoride | 45.2 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 1,6-dihydro-6-oxo-2-(3-trifluoromethylanilino)-5-pyrimidinecarboxylate | 34.4 g | O=C1C(=CN=C(N1)NC1=CC(=CC=C1)C(F)(F)F)C(=O)OCC | C14H12F3N3O3
